US07718798B2
N-(cyclopropylmethyl)-N-(5-(2-methoxyethoxy)-2-{5-[(1-oxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)pyridine-2-sulfonamide
A mixture of N-[2-(benzylthio)-3-thiomorpholinopropyl]-7-[(cyclopropylmethyl)(pyridin-2-ylsulfonyl)amino]-5-(2-methoxyethoxy)-1H-indole-2-carboxamide (355 mg), thioanisole (0.12 mL) and dichloromethane (3 mL) was added thereto at 0° C., and the mixture was stirring at 0° C. for 10 min. Aqueous sodium bicarbonate solution was added to the reaction mixture, and the organic layer was separated. The organic layer was extracted with concentrated hydrochloric acid, and after basified with the aqueous layer with potassium carbonate, the whole mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and filtered, and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give the amorphous solid from a fraction eluted with ethyl acetate. To the mixture of the obtained amorphous solid, tetrahydrofurane (5 mL), ethanol (5 mL) and water (5 mL) was added OXONE (registered trade mark, 369 mg) at room temperature, and the mixture was stirred at room temperature for 1 hr. To the resulting mixture was added 10% aqueous sodium sulfite solution, and the mixture was extracted with a mixed solvent of ethyl acetate and tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by preparative HPLC to give amorphous solid, which was crystallized from diisopropyl ether to give the title compound (146 mg, yield 47%) as colorless crystals.

reactant | N-[2-(benzylthio)-3-thiomorpholinopropyl]-7-[(cyclopropylmethyl)(pyridin-2-ylsulfonyl)amino]-5-(2-methoxyethoxy)-1H-indole-2-carboxamide | 355 mg | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCOC)N(S(=O)(=O)C1=NC=CC=C1)CC1CC1)CN1CCSCC1 | C35H43N5O5S3
reactant | thioanisole | 0.12 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-(cyclopropylmethyl)-N-(5-(2-methoxyethoxy)-2-{5-[(1-oxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)pyridine-2-sulfonamide | 146 mg, yield 47% | C1(CC1)CN(S(=O)(=O)C1=NC=CC=C1)C=1C=C(C=C2C=C(NC12)C=1SC(CN1)CN1CCS(CC1)=O)OCCOC | C28H35N5O5S3
